US08981085B2
A solution of 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (3.0 g, 13 mmol) in CH2Cl2 (200 mL) was treated with nicotinic acid (3.2 g, 26 mmol), bis(2-oxooxazolidin-3-yl)phosphinic chloride (6.6 g, 26 mmol) and triethylamine (6.6 g, 65 mmol). The reaction was stirred at room temperature for 1 hour, and then 3M aqueous LiOH (4 mL) was added. The reaction was stirred for 1 hour, and then saturated aqueous Na2CO3 was added (200 mL). The aqueous phase was extracted with CH2Cl2 (1×200 mL), and the aqueous phase was filtered. The filtered cake was dried to yield N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide (3.5 g, 80% yield). 1H NMR (400 MHz, (CD3)2SO) δ 9.09 (d, 1H), 8.72 (dd, 1H), 8.32 (d. 1H), 8.26 (d, 1H), 7.50 (dd, 1H); LCMS (APCI+) m/z 336.9 (M+H)+, Retention time=2.19 minutes (Method 1).

reactant | 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 13 mmol, 3.0 g | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
reactant | nicotinic acid | 26 mmol, 3.2 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | bis(2-oxooxazolidin-3-yl)phosphinic chloride | 26 mmol, 6.6 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 65 mmol, 6.6 g | C(C)N(CC)CC | C6H15N
reactant | LiOH | 3M, 4 mL | [Li+].[OH-]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide | 3.5 g, 80% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)F | C13H8BrFN4O
